US07250410B2
1-[4-(heptyn-1-yl)phenyl]-7,8-dimethoxy-3-methyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one, IIIax.
Stir for 3 hours at room temperature under an inert atmosphere a mixture of 1-(4-iodophenyl)-7,8-dimethoxy-3-methyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one IIIah, 12 mg of CuI, 7 mg of PdCl2, 23 mg of PPh3, 2 ml of TEA, 4 ml of heptyne, in 12 ml of CH3CN. Evaporate to dryness and purify by silica chromatography (AcOEt 1/hexane 1).

reactant | 1-(4-iodophenyl)-7,8-dimethoxy-3-methyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one | IC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C(C(=C2)OC)OC)=O)C | C18H17IN2O3
reactant | PPh3 | 23 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | heptyne | 4 ml | C#CCCCCC | C7H12
solvent | CH3CN | 12 ml | CC#N | C2H3N
catalyst | CuI | 12 mg | [Cu]I
catalyst | PdCl2 | 7 mg | Cl[Pd]Cl
product | 1-[4-(heptyn-1-yl)phenyl]-7,8-dimethoxy-3-methyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one | C(#CCCCCC)C1=CC=C(C=C1)C1=NN(C(CC2=C1C=C(C(=C2)OC)OC)=O)C | C25H28N2O3
